US04298529
Methyl orthoformate (31.8 g) and "Amberlist 15" (trademark) (1.7 g) were added to a stirred solution of ethyl 2-methoxyimino-3-oxobutyrate (syn isomer, 17.3 g) in dry methanol (50 ml) and stirred at 50° to 60° C. for 2.5 hours. To the resultant solution was added methyl orthoformate (10.6 g) and stirred for 2 hours. The solution was allowed to stand in refrigerator overnight and stirred at 50° to 60° C. for 2 hours. After evaporating methanol in vacuo, diethyl ether (100 ml) and water (50 ml) were added to the residue, and the organic layer was separated. The aqueous layer was extracted with diethyl ether. The organic layer and the extract were combined together and washed with a saturated aqueous solution of sodium chloride. The solution was dried over magnesium sulfate and evaporated under reduced pressure to give ethyl 2-methoxyimino-3,3-dimethoxybutyrate (syn isomer, 18 g). bp 61° to 64° C./0.35 mmHg.

reactant | Methyl orthoformate | 31.8 g | C(OC)([O-])[O-]
reactant | ethyl 2-methoxyimino-3-oxobutyrate | 17.3 g | CON=C(C(=O)OCC)C(C)=O | C7H11NO4
reactant | methyl orthoformate | 10.6 g | C(OC)([O-])[O-]
reactant | methanol | 50 ml | CO | CH4O
product | ethyl 2-methoxyimino-3,3-dimethoxybutyrate | 18 g | CON=C(C(=O)OCC)C(C)(OC)OC | C9H17NO5
